US04829090
A mixture of 2-((6-chrysenylmethyl)amino)-2-methyl-1,3-propanediol free base (ID) (3.45 g, 10 mmol) and lactic acid (Fisher Scientific Co., 711 Forbes Ave., Pittsburgh, PA, 15219, 85% liquid, 1.04 g, 10 mmol) in CH3ON (500 mL) was brought to reflux and filtered through a glass fritted funnel. The solvent was removed by rotary evaporation to give a crude white solid. This was crystallized (CH3OH/Et2O) 3× to give 1.84 g (42.2%) of 2-((6-chrysenylmethyl)amino)-2-methyl-1,3-propanediol lactate mp 163°-164°, (C, H, N).

reactant | 2-((6-chrysenylmethyl)amino)-2-methyl-1,3-propanediol | 10 mmol, 3.45 g | C1=CC=CC=2C3=CC(=C4C=CC=CC4=C3C=CC12)CNC(CO)(CO)C | C23H23NO2
reactant | lactic acid | 10 mmol, 1.04 g | C(C(O)C)(=O)O | C3H6O3
product | 2-((6-chrysenylmethyl)amino)-2-methyl-1,3-propanediol lactate | 1.84 g, 42.2% | C(C(O)C)(=O)OCC(CO)(C)NCC=1C=C2C=3C=CC=CC3C=CC2=C2C=CC=CC12 | C26H27NO4
